US08114867B2
80.i. Hex-5-enoic acid (6-methoxy-[1,5]naphthyridin-4-yl)-amide
To a suspension of 6-methoxy-[1,5]naphthyridin-4-ylamine (1.5 g, 8.56 mmol) and TEA (1.55 mL, 1.3 eq.) in DCM (8.5 mL) was added 5-hexenoyl chloride (1.36 g, 1.2 eq.) in DCM (1.5 mL) at rt. The resulting suspension was vigorously stirred at rt for 20 h. The mixture was then washed with water. The org. layer was dried over Na2SO4 and concentrated. The residue was chromatographed on SiO2 (DCM-MeOH—NH4OH: 1000:50:4) to afford the title intermediate as a yellow solid (1.66 g, 71% yield).

reactant | 6-methoxy-[1,5]naphthyridin-4-ylamine | 8.56 mmol, 1.5 g | COC=1N=C2C(=CC=NC2=CC1)N | C9H9N3O
reactant | 5-hexenoyl chloride | 1.36 g, 1.2 eq. | C(CCCC=C)(=O)Cl | C6H9ClO
solvent | DCM | 8.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | Hex-5-enoic acid (6-methoxy-[1,5]naphthyridin-4-yl)-amide | 1.66 g, 71% yield | COC=1N=C2C(=CC=NC2=CC1)NC(CCCC=C)=O | C15H17N3O2
